.subckt fdprbsbq_x1 Q CK D RD SD VDD VSS
XFDPRBS_ck_P0 FDPRBS_ck_b CK VDD VDD pmos w=2u l=100n
XFDPRBS_ck_N0 FDPRBS_ck_b CK VSS VSS nmos w=1u l=100n
XFDPRBS_m_in_P FDPRBS_m_n1 CK D VDD pmos w=2u l=100n
XFDPRBS_m_in_N FDPRBS_m_n1 FDPRBS_ck_b D VSS nmos w=1u l=100n
XFDPRBS_m_i1_P0 FDPRBS_m_n2 FDPRBS_m_n1 VDD VDD pmos w=2u l=100n
XFDPRBS_m_i1_N0 FDPRBS_m_n2 FDPRBS_m_n1 VSS VSS nmos w=1u l=100n
XFDPRBS_m_i2_P0 FDPRBS_m_n1 FDPRBS_m_n2 VDD VDD pmos w=2u l=100n
XFDPRBS_m_i2_N0 FDPRBS_m_n1 FDPRBS_m_n2 VSS VSS nmos w=1u l=100n
XFDPRBS_m_fb_P FDPRBS_m_n1 FDPRBS_ck_b FDPRBS_m_n2 VDD pmos w=2u l=100n
XFDPRBS_m_fb_N FDPRBS_m_n1 CK FDPRBS_m_n2 VSS nmos w=1u l=100n
XFDPRBS_m_o_P0 FDPRBS_qm FDPRBS_m_n2 VDD VDD pmos w=2u l=100n
XFDPRBS_m_o_N0 FDPRBS_qm FDPRBS_m_n2 VSS VSS nmos w=1u l=100n
XFDPRBS_s_in_P FDPRBS_s_n1 FDPRBS_ck_b FDPRBS_qm VDD pmos w=2u l=100n
XFDPRBS_s_in_N FDPRBS_s_n1 CK FDPRBS_qm VSS nmos w=1u l=100n
XFDPRBS_s_i1_P0 FDPRBS_s_n2 FDPRBS_s_n1 VDD VDD pmos w=2u l=100n
XFDPRBS_s_i1_N0 FDPRBS_s_n2 FDPRBS_s_n1 VSS VSS nmos w=1u l=100n
XFDPRBS_s_i2_P0 FDPRBS_s_n1 FDPRBS_s_n2 VDD VDD pmos w=2u l=100n
XFDPRBS_s_i2_N0 FDPRBS_s_n1 FDPRBS_s_n2 VSS VSS nmos w=1u l=100n
XFDPRBS_s_fb_P FDPRBS_s_n1 CK FDPRBS_s_n2 VDD pmos w=2u l=100n
XFDPRBS_s_fb_N FDPRBS_s_n1 FDPRBS_ck_b FDPRBS_s_n2 VSS nmos w=1u l=100n
XFDPRBS_s_o_P0 Q FDPRBS_s_n2 VDD VDD pmos w=2u l=100n
XFDPRBS_s_o_N0 Q FDPRBS_s_n2 VSS VSS nmos w=1u l=100n
XFDPRBS_rdi_P0 FDPRBS_rd_b RD VDD VDD pmos w=2u l=100n
XFDPRBS_rdi_N0 FDPRBS_rd_b RD VSS VSS nmos w=1u l=100n
XFDPRBS_rcl Q FDPRBS_rd_b VSS VSS nmos w=1u l=100n
XFDPRBS_sdi_P0 FDPRBS_sd_b SD VDD VDD pmos w=2u l=100n
XFDPRBS_sdi_N0 FDPRBS_sd_b SD VSS VSS nmos w=1u l=100n
XFDPRBS_rst Q FDPRBS_sd_b VDD VDD pmos w=2u l=100n
.ends fdprbsbq_x1
